### PR TITLE
Adding sorting on tuples.

### PR DESCRIPTION
**Pull request by jouvelot**
##### Motivation for this change

This update allows easy sorting on tuples using:
```coq
Variable (n : nat) (T : finType) (r : rel T) (s : n.-tuple T).
Let s' := [tuple of sort r s].
```
##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/tuple.v [hunk 1]
```diff
@@ -208,6 +208,10 @@ Lemma allpairs_tupleP f t (u : m.-tuple U) : @size rT (allpairs f t u) == n * m.
 Proof. by rewrite size_allpairs !size_tuple. Qed.
 Canonical allpairs_tuple f t u := Tuple (allpairs_tupleP f t u).
 
+Lemma sort_tupleP T n r (t : n.-tuple T): size (sort r t) == n.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/tuple.v:211]:
```suggestion
Lemma sort_tupleP T n r t : size (sort r t) == n.
```

File: mathcomp/ssreflect/tuple.v [hunk 2]
```diff
@@ -208,6 +208,10 @@ Lemma allpairs_tupleP f t (u : m.-tuple U) : @size rT (allpairs f t u) == n * m.
 Proof. by rewrite size_allpairs !size_tuple. Qed.
 Canonical allpairs_tuple f t u := Tuple (allpairs_tupleP f t u).
 
+Lemma sort_tupleP T n r t : size (sort r t) == n.
+Proof. by rewrite size_sort size_tuple. Qed.
+Canonical sort_tuple T n r t := Tuple (@sort_tupleP T n r t).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/tuple.v:213]:
```suggestion
Lemma sort_tupleP r t : size (sort r t) == n.
Proof. by rewrite size_sort size_tuple. Qed.
Canonical sort_tuple r t := Tuple (@sort_tupleP T n r t).
```

File: mathcomp/ssreflect/tuple.v [hunk 3]
```diff
@@ -208,6 +208,10 @@ Lemma allpairs_tupleP f t (u : m.-tuple U) : @size rT (allpairs f t u) == n * m.
 Proof. by rewrite size_allpairs !size_tuple. Qed.
 Canonical allpairs_tuple f t u := Tuple (allpairs_tupleP f t u).
 
+Lemma sort_tupleP r t : size (sort r t) == n.
+Proof. by rewrite size_sort size_tuple. Qed.
+Canonical sort_tuple r t := Tuple (@sort_tupleP T n r t).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/tuple.v:213]:
```suggestion
Canonical sort_tuple r t := Tuple (sort_tupleP r t).
```
